US05118441
Step vi) Production of 2,3-dicyanohydroquinone monohexyl ether
11.3 g (44.1 mM) of n-hexyl p-toluenesulfonate was added to the mixture of 5.0 g (31.3 mM) of dicyanohydroquinone and 37.5 ml of 5% NaOH aqueous solution, followed by 7 hours of stirring under refluxing. After the reaction, the reaction mixture was washed with toluene and the aqueous layer was acidified with HCl. The resultant precipitate was recovered through filtration and dried. To the precipitate, 1 liter of toluene was added. After the insoluble substrate was filtered out, the filtrate was subjected to recrystallization in a refrigerator and further subjected to recrystallization from a mixture solvent of water/methanol to obtain 2.1 g of an objective product (yield: 27.5%). m.p.: 150°-153° C.

reactant | n-hexyl p-toluenesulfonate | 44.1 mM, 11.3 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCCCC)C | C13H20O3S
reactant | dicyanohydroquinone | 31.3 mM, 5.0 g | C(#N)C=1C(=C(O)C=CC1O)C#N | C8H4N2O2
reactant | NaOH | 37.5 ml | [OH-].[Na+]
product | 2,3-dicyanohydroquinone monohexyl ether | 2.1 g, yield: 27.5% | C(CCCCC)OC1=C(C(=C(O)C=C1)C#N)C#N | C14H16N2O2
